US06689290B2
2-(1,4,7-Trioxaoctyl)-3,6,7,10,11-pentahexyloxytriphenylene
A mixture of 2-hydroxy-3,6,7,10,11-pentahexyloxytriphenylene (0.37 g, 0.5 mmol), 1-bromo-2-(2-methoxyethoxy)ethane (0.37 g) and potassium carbonate (0.4 g, 3 mmol) in ethanol (10 ml) was heated under reflux for 72 hours. After which time, it was filtered, extracted with dichloromethane (25 ml), concentrated in vacuo, and the product isolated by column chromatography (silica gel eluting with ethyl acetate) and recrystallised from ethanol to give the title compound as a white solid (0.06 g, 14%, K→D 55.4° C., D→I 69.3° C.). Elemental Analysis: C, 74.95; H, 9.55. C53H82O8 requires: C, 75.14; H, 9.75. Mass Spectrum: m/z (FAB) 869 ([M+23]+, 100%); 846 (M+, 94.5%). 1H-NMR: δH (CDCl3) 0.93 (15H, t, J=6.7 Hz, O(CH2)5CH3), 1.10-1.70 (30H, m, OCH2CH2(CH2)3), 1.94 (10H, m, OCH2CH2), 3.41 (3H, s, OCH2CH2OCH2CH2CH3), 3.61 (2H, t, J=5.0 Hz, OCH2CH2OCH2CH2), 3.82 (2H, t, J=5.0 Hz, OCH2CH2OCH2), 4.00 (2H, t, J=5.0 Hz, OCH2CH2), 4.23 (10H, t, J=6.5 Hz, OCH2), 4.42 (2H, t, J=5.0 Hz, OCH2), 7.83 (5H, s, ArH), 7.90 (1H, s, ArH).

reactant | 2-hydroxy-3,6,7,10,11-pentahexyloxytriphenylene | 0.5 mmol, 0.37 g | OC1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC | C48H72O6
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 0.37 g | BrCCOCCOC | C5H11BrO2
reactant | potassium carbonate | 3 mmol, 0.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(1,4,7-Trioxaoctyl)-3,6,7,10,11-pentahexyloxytriphenylene | 0.06 g, 14% | O(CCOCCOC)C1=CC=2C3=CC(=C(C=C3C3=CC(=C(C=C3C2C=C1OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC)OCCCCCC | C53H82O8
